US04093812
Add 1.06 ml. of pyrrolidine in 2 ml of dioxane dropwise to 1.0 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid chloride in 43 ml of dioxane at 35° C under stirring. Stir the resulting solution for an hour at room temperature and then concentrate it. Wash the resulting precipitate with water to obtain a 99% yield of 1-[3-(5-nitro-2-furyl)-1-phenyl-4-pyrazolylcarbonyl]pyrrolidine [m.p. 236.5° to 237.5° C].

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid chloride | 1.0 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)Cl)C1=CC=CC=C1 | C14H8ClN3O4
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 43 ml | O1CCOCC1 | C4H8O2
product | 1-[3-(5-nitro-2-furyl)-1-phenyl-4-pyrazolylcarbonyl]pyrrolidine | 99% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)N1CCCC1)C1=CC=CC=C1 | C18H16N4O4
